US07465731B2
Lithium aluminium hydride (256 mg) was added to absolution of methyl 6-[(1-benzyl-3-pyrrolidinyl)amino]nicotinate (1.4 g) in THF (50 ml) with stirring at 5-10′ under atmospheric pressure of nitrogen, and the reaction mixture was stirred at 5-20° C. for 4 hours. The reaction mixture was cooled at 5° C. and water (0.26 ml), 15% NaOH solution (0.26 ml) and water (0.72 ml) was added, the resultant mixture was stirred at ambient temperature for 20 minutes. The reaction mixture was filtrated and the filtrate was dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (85:15). The eluted fractions containing the desired product were collected and evaporated in vacuo to give {6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl}methanol (0.96 g)

reactant | Lithium aluminium hydride | 256 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-[(1-benzyl-3-pyrrolidinyl)amino]nicotinate | 1.4 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=O)OC)C=C1 | C18H21N3O2
reactant | water | 0.26 ml | O | H2O
reactant | NaOH | 0.26 ml | [OH-].[Na+]
reactant | water | 0.72 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | {6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl}methanol | 0.96 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=CC=C(C=N1)CO | C17H21N3O
